US08242153B2
To a stirred, cooled (0° C.) solution of 1-(4-chloro-phenyl)-cyclopropanecarbaldehyde (0.36 g) in tetrahydrofuran (15 ml) was added under an argon atmosphere (R)-4-(benzothiazole-2-sulfonylmethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (1.0 g) followed by a 1 M solution of LiHMDS in THF (4.8 ml). After 1 h at 0° C. the cooling bath was removed and stirring was continued overnight. The mixture was quenched by the addition of sat. aqueous NH4Cl (15 ml) and H2O (15 ml) and extracted with EtOAc. The aqueous phase was back extracted with EtOAc. The combined organics were washed with brine, dried over MgSO4, filtered and concentrated. The crude product was purified by column chromatography (SiO2; gradient: heptane→heptane/EtOAc 2:1) to give (S)-4-{(Z)-2-[1-(4-chloro-phenyl)-cyclopropyl]-vinyl}-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (0.72 g) as light yellow viscous oil. MS (ISP): 378.3 ([M+H]+))

reactant | 1-(4-chloro-phenyl)-cyclopropanecarbaldehyde | 0.36 g | ClC1=CC=C(C=C1)C1(CC1)C=O | C10H9ClO
reactant | (R)-4-(benzothiazole-2-sulfonylmethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 1.0 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CS(=O)(=O)C=1SC2=C(N1)C=CC=C2)(C)C | C18H24N2O5S2
reactant | LiHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | THF | 4.8 ml | C1CCOC1 | C4H8O
product | (S)-4-{(Z)-2-[1-(4-chloro-phenyl)-cyclopropyl]-vinyl}-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 0.72 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1\C=C/C1(CC1)C1=CC=C(C=C1)Cl)(C)C | C21H28ClNO3
